US07045631B2
N-{4-[2-Amino-3,5-dicyano-6-(phenylsulphanyl)-4-pyridinyl]phenyl}acetamide
318 g (1.5 mol) of N-[4-(2,2-dicyanovinyl)phenyl]acetamide, 99 g (1.5 mol) of malonitrile and 166 g (1.5 mol) of thiophenol are initially introduced in 2 000 ml of ethanol, and 6.7 ml of triethylamine are then added. The mixture is stirred under reflux for 2 hours, in connection with which crystallization takes place. After the mixture has cooled down to room temperature, the product is filtered off with suction and dried in vacuo.

reactant | N-[4-(2,2-dicyanovinyl)phenyl]acetamide | 1.5 mol, 318 g | C(#N)C(=CC1=CC=C(C=C1)NC(C)=O)C#N | C12H9N3O
reactant | malonitrile | 1.5 mol, 99 g | C(C(O)CC#N)#N | C4H4N2O
reactant | thiophenol | 1.5 mol, 166 g | C1(=CC=CC=C1)S | C6H6S
reactant | ethanol | C(C)O | C2H6O
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
product | N-{4-[2-Amino-3,5-dicyano-6-(phenylsulphanyl)-4-pyridinyl]phenyl}acetamide | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)SC1=CC=CC=C1 | C21H15N5OS
